US08222246B2
6-[3-(4-Chloro-phenyl)-5-hydroxymethyl-isoxazol-4-ylmethoxy]-N,N-dimethyl-nicotinamide
To a solution of 6-[3-(4-chloro-phenyl)-5-hydroxymethyl-isoxazol-4-ylmethoxy]-nicotinic acid (100 mg, 0.28 mmol) and dimethylamine hydrochloride (23.1 mg, 0.28 mmol) in THF (10 mL) were added at 0° C., 1-hydroxybenzotriazole hydrate (43.3 mg, 0.28 mmol), N-ethyldiisopropylamine (170 μL, 0.97 mmol) and N-(3-dimethylaminopropyl)-N′-ethylcarbodiimide hydrochloride (54.2 mg, 0.28 mmol). The reaction mixture was stirred at room temperature overnight. The solvent was removed by distillation. The remaining material was purified by chromatography (silica, ethyl acetate:heptane=4:6 to 1:0) to afford the title compound (66 mg, 61%) as a white solid. MS: m/e=446.3 [M+OAc]−.

reactant | 6-[3-(4-chloro-phenyl)-5-hydroxymethyl-isoxazol-4-ylmethoxy]-nicotinic acid | 0.28 mmol, 100 mg | ClC1=CC=C(C=C1)C1=NOC(=C1COC1=NC=C(C(=O)O)C=C1)CO | C17H13ClN2O5
reactant | dimethylamine hydrochloride | 0.28 mmol, 23.1 mg | Cl.CNC
reactant | 1-hydroxybenzotriazole hydrate | 0.28 mmol, 43.3 mg | O.ON1N=NC2=C1C=CC=C2
reactant | N-ethyldiisopropylamine | 0.97 mmol, 170 μL | C(C)N(C(C)C)C(C)C | C8H19N
reactant | N-(3-dimethylaminopropyl)-N′-ethylcarbodiimide hydrochloride | 0.28 mmol, 54.2 mg | Cl.CN(CCCN=C=NCC)C
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | 6-[3-(4-Chloro-phenyl)-5-hydroxymethyl-isoxazol-4-ylmethoxy]-N,N-dimethyl-nicotinamide | 66 mg, 61% | ClC1=CC=C(C=C1)C1=NOC(=C1COC1=NC=C(C(=O)N(C)C)C=C1)CO | C19H18ClN3O4
